US04435404
1.0 Gram of 6-[3-(4-phenyl-1-piperazinylcarbonyl)-2-propenyloxy]carbostyril was dissolved in 50 ml of methanol, then 0.1 g of 5% palladium-carbon was added thereto. The mixture was catalytically hydrogenated at a room temperature under an atmospheric pressure for 5 hours. After the reaction was completed, the catalyst was removed by filtration and the filtrate was concentrated by distillation under a reduced pressure to dryness. The residue thus obtained was recrystallized from chloroform-petroleum ether to obtain 0.75 g of 6-[3-(4-phenyl-1-piperazinylcarbonyl)propoxy]carbostyril as in the form of colorless needle-like crystals. Melting point 202.5°-203.5° C.

reactant | 6-[3-(4-phenyl-1-piperazinylcarbonyl)-2-propenyloxy]carbostyril | C1(=CC=CC=C1)N1CCN(CC1)C(=O)C=CCOC=1C=C2C=CC(NC2=CC1)=O | C23H23N3O3
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladium-carbon | 0.1 g | [C].[Pd]
product | 6-[3-(4-phenyl-1-piperazinylcarbonyl)propoxy]carbostyril | 0.75 g | C1(=CC=CC=C1)N1CCN(CC1)C(=O)CCCOC=1C=C2C=CC(NC2=CC1)=O | C23H25N3O3
